US07776857B2
Step 3: 4-(4-phenylnaphthalen-1-ylamino)phenol
A round bottom flask was charged with N-(4-methoxyphenyl)-4-phenylnaphthalen-1-amine (600 mg, 1844 μmol) and 6 mL 1:1 HBr (100 μl, 1844 μmol) and HOAc (106 μl, 1844 μmol). The flask was fitted with a reflux condenser and the mixture was heated at 140° C. After 1 h, LCMS showed ˜50% conversion to desired product. Heating was continued for another 5 h. Upon cooling, the mixture was brought to neutral pH by addition of 6 N NaOH and extracted with DCM. The organic portion was dried, filtered and concentrated. The crude material was purified by silica gel chromatography, 0-50% EtOAc/hex to provide 4-(4-phenylnaphthalen-1-ylamino)phenol. MS: [M+H]=312.

reactant | N-(4-methoxyphenyl)-4-phenylnaphthalen-1-amine | 1844 μmol, 600 mg | COC1=CC=C(C=C1)NC1=CC=C(C2=CC=CC=C12)C1=CC=CC=C1 | C23H19NO
reactant | HBr | 1844 μmol, 100 μl | Br | BrH
reactant | HOAc | 1844 μmol, 106 μl | CC(=O)O | C2H4O2
product | 4-(4-phenylnaphthalen-1-ylamino)phenol | C1(=CC=CC=C1)C1=CC=C(C2=CC=CC=C12)NC1=CC=C(C=C1)O | C22H17NO
